US09233981B1
Step 10. Synthesis of N-[(4R,4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(hydroxymethyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (P5)
The product was prepared from N-[(4R,4aR,6R,8aS)-6-[(benzyloxy)methyl]-8a-(2,4-difluorophenyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C21) according to the general procedure for the synthesis of N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(hydroxymethyl)-4,4a, 5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (P1) in Preparation P1. In this case, the combined crude product from two similar reactions was triturated with dichloromethane rather than being purified by chromatography. The filtrate from the trituration was concentrated in vacuo, and a second crop of material was obtained via a second trituration with dichloromethane, affording the product in both cases as a white solid. Total yield: 23.12 g, 53.46 mmol, 79%. LCMS m/z 433.2 [M+H+]. 1H NMR (400 MHz, CD3OD) δ 8.12 (br d, J=7 Hz, 2H), 7.51-7.57 (m, 1H), 7.40-7.49 (m, 3H), 7.02-7.11 (m, 2H), 4.15 (br d, J=12 Hz, 1H), 3.91 (d, J=11.9 Hz, 1H), 3.71-3.78 (m, 1H), 3.60 (d, J=5.2 Hz, 2H), 3.19-3.28 (br m, 1H), 2.97-3.06 (br m, 1H), 1.74-1.82 (m, 1H), 1.49-1.62 (m, 1H), 1.26 (d, J=7.0 Hz, 3H).

reactant | N-[(4R,4aR,6R,8aS)-6-[(benzyloxy)methyl]-8a-(2,4-difluorophenyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | C(C1=CC=CC=C1)OC[C@H]1C[C@@H]2[C@@](N=C(S[C@@H]2C)NC(C2=CC=CC=C2)=O)(CO1)C1=C(C=C(C=C1)F)F | C29H28F2N2O3S
reactant | N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(hydroxymethyl)-4,4a, 5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)CO)NC(C2=CC=CC=C2)=O | C21H20F2N2O3S
product | N-[(4R,4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(hydroxymethyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | FC1=C(C=CC(=C1)F)[C@@]12N=C(S[C@@H]([C@@H]1C[C@@H](OC2)CO)C)NC(C2=CC=CC=C2)=O | C22H22F2N2O3S
